US09371320B2
D) methyl 1-cyclopentyl-4-oxo-4,5-dihydro-1H-pyrrolo[3,2-c]pyridine-7-carboxylate
To a solution of methyl 2-(1-amino-3-methoxy-3-oxoprop-1-en-2-yl)-1-cyclopentyl-1H-pyrrole-3-carboxylate (20.45 g) in DMF (205 mL) was added sodium tert-butoxide (6.72 g), and the mixture was stirred at 160° C. for 1 hr. The reaction mixture was allowed to be cooled to room temperature, water was added thereto, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was washed with ethyl acetate and hexane to give the title compound (7.83 g).

reactant | methyl 2-(1-amino-3-methoxy-3-oxoprop-1-en-2-yl)-1-cyclopentyl-1H-pyrrole-3-carboxylate | 20.45 g | NC=C(C(=O)OC)C=1N(C=CC1C(=O)OC)C1CCCC1 | C15H20N2O4
reactant | sodium tert-butoxide | 6.72 g | CC(C)([O-])C.[Na+]
reactant | water | O | H2O
solvent | DMF | 205 mL | CN(C)C=O | C3H7NO
product | methyl 1-cyclopentyl-4-oxo-4,5-dihydro-1H-pyrrolo[3,2-c]pyridine-7-carboxylate | 7.83 g | C1(CCCC1)N1C=CC=2C(NC=C(C21)C(=O)OC)=O | C14H16N2O3
